.SUBCKT SPDT COM NO NC CTRL
; CTRL = 0.0 .. 0.4 --> COM = NC
; CTRL = 0.4 .. 0.6 --> COM = Not Connected
; CTRL = 0.6 .. 1.0 --> COM = NO

BCTRLb CTRLb 0 V = 1 - V(CTRL)   ; requires CTRL in [0,1]V

S1 COM NO CTRL  0 SWMOD
S2 COM NC CTRLb 0 SWMOD
RLEAK1 COM NO 100Meg
RLEAK2 COM NC 100Meg

.model SWMOD SW(Ron=0.1 Roff=1Meg Vt=0.6 Vh=0)

.ENDS SPDT
